US07326791B2
(e) 4-(2,5-dihydropyrrol-1-ylcarbonyl)-3-methylbenzonitrile
31.6 g (0.11 mol) of 4-(2,5-dihydropyrrol-1-ylcarbonyl)-3-methylbromobenzene is dissolved in 125 mL of dimethylformamide and combined with 20.2 g (0.23 mol) of copper cyanide and 3.2 g (2.7 mmol) of tetrakis-triphenylphosphinepalladium(0). The suspension is stirred for 20 hours at 140° C. Then it is cooled to 80° C., combined with 150 mL of water, 150 mL of ethyl acetate, and 25 g of CELITE® filter aid and filtered through CELITE® filter aid. The organic phase is separated off, washed with sodium chloride solution, dried over sodium sulfate, and concentrated by evaporation. The residue is chromatographed on silica gel, eluting with ethyl acetate/ethanol (50:1 and 19:1). The corresponding fractions are combined and concentrated by evaporation. Yield: 11.7 g (49% of theory); Rf value: 0.55 (silica gel; ethyl acetate/ethanol=9:1).

reactant | 4-(2,5-dihydropyrrol-1-ylcarbonyl)-3-methylbromobenzene | 0.11 mol, 31.6 g | N1(CC=CC1)C(=O)C1=C(C=C(C=C1)Br)C | C12H12BrNO
reactant | copper cyanide | 0.23 mol, 20.2 g | [Cu](C#N)C#N
reactant | water | 150 mL | O | H2O
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 125 mL | CN(C=O)C | C3H7NO
product | 4-(2,5-dihydropyrrol-1-ylcarbonyl)-3-methylbenzonitrile | N1(CC=CC1)C(=O)C1=C(C=C(C#N)C=C1)C | C13H12N2O
